US06056965
A/Preparation of N,N-bis-tert-butyloxycarbonyl-L-histidine methyl ester:
Sodium carbonate (9.33 g; 88 mmol) is added to a mixture of L-histidine methyl ester dihydrochloride (4.84 g; 20 mmol) in a water-THF mixture (20/40). The di-tert-butyl pyrocarbonate (10 g; 46 mmol) is added while vigorously stirring the mixture obtained. After stirring for 1.5 h at room temperature, the reaction medium is decanted. The aqueous phase is extracted with 50 ml of ethyl acetate. The organic phases from decantation and extraction are combined and the solvent is evaporated under reduced pressure. The crude product is purified by liquid chromatography on a silica column (eluent: ethyl acetate-cyclohexane 1/1).

reactant | Sodium carbonate | 88 mmol, 9.33 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | L-histidine methyl ester dihydrochloride | 20 mmol, 4.84 g | Cl.Cl.COC([C@@H](N)CC1=CNC=N1)=O
reactant | di-tert-butyl pyrocarbonate | 46 mmol, 10 g | C(OC(C)(C)C)(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | water THF | O.C1CCOC1
product | N,N-bis-tert-butyloxycarbonyl-L-histidine methyl ester | COC([C@@H](N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)CC1=CNC=N1)=O | C17H27N3O6
